US08044075B2
To a 5 ml Biotage microwave reaction tube was added 5-(chlorosulfonyl)-2-fluorobenzoic acid (0.4 g, 1.68 mmol) and a Teflon covered magnetic stir-bar followed by 2.5 ml of THF. To the resulting mixture was added 10N aqueous NaOH (0.369 ml, 3.38 mmol) with stirring. After formation of a cloudy suspension, ethylamine (0.838 ml, 1.68 mmol) was added as a 2M solution in THF. The reaction vessel was capped and heated to 110° C. for 1.1 min in a Biotage Initiator 8 microwave set at high absorbance. Reaction mixture was then diluted with 4 ml acetonitrile and acidified with 6M aqueous HCl (0.670 ml, 4.02 mmol). Water was removed from the mixture by adding excess anhydrous Na2SO4 and subsequent filtration. The filtered was washed with acetonitrile and DMF. The combined filtrates were concentrated with rotary evaporation, yielding the crude 5-[(ethylamino)sulfonyl]-2-fluorobenzoic acid.

reactant | 5-(chlorosulfonyl)-2-fluorobenzoic acid | 1.68 mmol, 0.4 g | ClS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)F | C7H4ClFO4S
reactant | NaOH | 3.38 mmol, 10N, 0.369 ml | [OH-].[Na+]
reactant | ethylamine | 1.68 mmol, 0.838 ml | C(C)N | C2H7N
reactant | HCl | 4.02 mmol, 6M, 0.670 ml | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
product | 5-[(ethylamino)sulfonyl]-2-fluorobenzoic acid | C(C)NS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)F | C9H10FNO4S
